US08563575B2
138b) 1-ethyl-7-methyl-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one 4-oxide
To a stirred mixture of 1-ethyl-7-methyl-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (5 g) and urea hydrogen peroxide (2.32 g) in CH2Cl2 (50 mL) was added trifluoroacetic anhydride (3.32 ml) at 0° C. The mixture was stirred at room temperature for 12 h, and treated with saturated NaHCO3 solution. The organic layer was separated and the aqueous layer was extracted with AcOEt. The organic layer was combined, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (NH, AcOEt) to give the title compound (1.0 g).

reactant | 1-ethyl-7-methyl-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 5 g | C(C)N1C(N(C2=NC=CC(=C21)C)C2=CC=C(C=C2)O[Si](C(C)C)(C(C)C)C(C)C)=O | C24H35N3O2Si
reactant | urea hydrogen peroxide | 2.32 g | OO.NC(=O)N
reactant | trifluoroacetic anhydride | 3.32 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-ethyl-7-methyl-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one 4-oxide | 1.0 g | C(C)N1C(N(C2=[N+](C=CC(=C21)C)[O-])C2=CC=C(C=C2)O[Si](C(C)C)(C(C)C)C(C)C)=O | C24H35N3O3Si
